### PR TITLE
[Merged by Bors] - feat (RingTheory/HahnSeries) : def leadingCoeff, orderTop lemmas

### PR DESCRIPTION
**Pull request by ScottCarnahan**
This PR defines a `leadingCoeff` function on Hahn series. For nonzero Hahn series, it returns the coefficient of the minimum element of support.  For zero, it returns zero.  This function generalizes `x.coeff x.order` to the setting where the exponent type does not have zero.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/HahnSeries/Addition.lean [hunk 1]
```diff
@@ -78,15 +78,54 @@ theorem support_add_subset {x y : HahnSeries Γ R} : support (x + y) ⊆ support
   rw [ha.1, ha.2, add_zero]
 #align hahn_series.support_add_subset HahnSeries.support_add_subset
 
+theorem MinLEMinAdd {Γ} [LinearOrder Γ] {x y : HahnSeries Γ R} (hx : x ≠ 0) (hy : y ≠ 0)
```
Comment (alexjbest) [inline Mathlib/RingTheory/HahnSeries/Addition.lean:81]:
```suggestion
theorem min_le_min_add {Γ} [LinearOrder Γ] {x y : HahnSeries Γ R} (hx : x ≠ 0) (hy : y ≠ 0)
```
maybe protected too as its quite a specialised lemma with a generic sounding name

File: Mathlib/RingTheory/HahnSeries/Addition.lean [hunk 2]
```diff
@@ -78,15 +78,54 @@ theorem support_add_subset {x y : HahnSeries Γ R} : support (x + y) ⊆ support
...
+    (hxy : x + y ≠ 0) : min (Set.IsWF.min x.isWF_support (support_nonempty_iff.2 hx))
+      (Set.IsWF.min y.isWF_support (support_nonempty_iff.2 hy)) ≤
+      Set.IsWF.min (x + y).isWF_support (support_nonempty_iff.2 hxy) := by
+  rw [(Set.IsWF.min_union _ _ _ _).symm]
+  exact Set.IsWF.min_le_min_of_subset (support_add_subset (x := x) (y := y))
```
Comment (alexjbest) [inline Mathlib/RingTheory/HahnSeries/Addition.lean:86]:
```suggestion
  rw [← Set.IsWF.min_union]
```

File: Mathlib/RingTheory/HahnSeries/Addition.lean [hunk 3]
```diff
@@ -170,13 +209,35 @@ theorem sub_coeff {x y : HahnSeries Γ R} {a : Γ} : (x - y).coeff a = x.coeff a
   simp
 #align hahn_series.sub_coeff HahnSeries.sub_coeff
 
+theorem orderTop_neg {x : HahnSeries Γ R} : (-x).orderTop = x.orderTop := by
+  by_cases hx : x = 0
+  · rw [hx, neg_zero]
+  · simp only [orderTop, support_neg, neg_eq_zero]
+
```
Comment (alexjbest) [inline Mathlib/RingTheory/HahnSeries/Addition.lean:216]:
```suggestion
  simp only [orderTop, support_neg, neg_eq_zero]
```

File: Mathlib/RingTheory/HahnSeries/Addition.lean [hunk 4]
```diff
@@ -170,13 +209,35 @@ theorem sub_coeff {x y : HahnSeries Γ R} {a : Γ} : (x - y).coeff a = x.coeff a
   simp
 #align hahn_series.sub_coeff HahnSeries.sub_coeff
 
+theorem orderTop_neg {x : HahnSeries Γ R} : (-x).orderTop = x.orderTop := by
+  by_cases hx : x = 0
+  · rw [hx, neg_zero]
+  · simp only [orderTop, support_neg, neg_eq_zero]
```
Comment (alexjbest) [inline Mathlib/RingTheory/HahnSeries/Addition.lean:215]:
```suggestion
simp only [orderTop, support_neg, neg_eq_zero]
```

File: Mathlib/RingTheory/HahnSeries/Basic.lean [hunk 5]
```diff
@@ -334,6 +369,25 @@ theorem coeff_eq_zero_of_lt_order {x : HahnSeries Γ R} {i : Γ} (hi : i < x.ord
   exact Set.IsWF.not_lt_min _ _ hi
 #align hahn_series.coeff_eq_zero_of_lt_order HahnSeries.coeff_eq_zero_of_lt_order
 
+theorem zero_lt_orderTop_iff {x : HahnSeries Γ R}  (hx : x ≠ 0) :
```
Comment (alexjbest) [inline Mathlib/RingTheory/HahnSeries/Basic.lean:372]:
```suggestion
theorem zero_lt_orderTop_iff {x : HahnSeries Γ R} (hx : x ≠ 0) :
```

File: Mathlib/RingTheory/HahnSeries/Addition.lean [hunk 6]
```diff
@@ -78,17 +78,55 @@ theorem support_add_subset {x y : HahnSeries Γ R} : support (x + y) ⊆ support
...
-  apply le_of_eq_of_le _ (Set.IsWF.min_le_min_of_subset (support_add_subset (x := x) (y := y)))
-  · simp
-  · simp [hy]
-  · exact (Set.IsWF.min_union _ _ _ _).symm
+  exact HahnSeries.min_le_min_add hx hy hxy
 #align hahn_series.min_order_le_order_add HahnSeries.min_order_le_order_add
 
+theorem orderTop_add_eq {Γ} [LinearOrder Γ] {x y : HahnSeries Γ R}
+    (hxy : x.orderTop < y.orderTop) : (x + y).orderTop = x.orderTop := by
+  have hx : x ≠ 0 := ne_zero_iff_orderTop.mpr <| LT.lt.ne_top hxy
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/HahnSeries/Addition.lean:108]:
```suggestion
  have hx : x ≠ 0 := ne_zero_iff_orderTop.mpr hxy.ne_top
```

File: Mathlib/RingTheory/HahnSeries/Addition.lean [hunk 7]
```diff
@@ -78,17 +78,55 @@ theorem support_add_subset {x y : HahnSeries Γ R} : support (x + y) ⊆ support
...
+  let g : Γ := Set.IsWF.min x.isWF_support (support_nonempty_iff.2 hx)
+  have hcxyne : (x+y).coeff g ≠ 0 := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/HahnSeries/Addition.lean:110]:
```suggestion
  have hcxyne : (x + y).coeff g ≠ 0 := by
```

File: Mathlib/RingTheory/HahnSeries/Addition.lean [hunk 8]
```diff
@@ -78,17 +78,55 @@ theorem support_add_subset {x y : HahnSeries Γ R} : support (x + y) ⊆ support
...
   rw [order_of_ne hx, order_of_ne hy, order_of_ne hxy]
-  apply le_of_eq_of_le _ (Set.IsWF.min_le_min_of_subset (support_add_subset (x := x) (y := y)))
-  · simp
-  · simp [hy]
-  · exact (Set.IsWF.min_union _ _ _ _).symm
+  exact HahnSeries.min_le_min_add hx hy hxy
 #align hahn_series.min_order_le_order_add HahnSeries.min_order_le_order_add
 
+theorem orderTop_add_eq {Γ} [LinearOrder Γ] {x y : HahnSeries Γ R}
+    (hxy : x.orderTop < y.orderTop) : (x + y).orderTop = x.orderTop := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/HahnSeries/Addition.lean:107]: Would it be worth having `_left` and `_right` variants, one with `x` and one with `y` on the right hand side? Also for the next theorem.

File: Mathlib/RingTheory/HahnSeries/Addition.lean [hunk 9]
```diff
@@ -78,17 +78,55 @@ theorem support_add_subset {x y : HahnSeries Γ R} : support (x + y) ⊆ support
...
+      add_zero]
+    exact coeff_orderTop_ne (orderTop_of_ne hx)
+  have hxyx : (x + y).orderTop ≤ x.orderTop := by
+    rw [orderTop_of_ne hx]
+    exact orderTop_le_of_coeff_ne_zero hcxyne
+  exact le_antisymm hxyx (le_of_eq_of_le (min_eq_left_of_lt hxy).symm min_orderTop_le_orderTop_add)
+
+theorem leadingCoeff_add_eq {Γ} [LinearOrder Γ] {x y : HahnSeries Γ R}
+    (hxy : x.orderTop < y.orderTop) : (x + y).leadingCoeff = x.leadingCoeff := by
+  have hx : x ≠ 0 := ne_zero_iff_orderTop.mpr <| LT.lt.ne_top hxy
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/HahnSeries/Addition.lean:121]:
```suggestion
  have hx : x ≠ 0 := ne_zero_iff_orderTop.mpr hxy.ne_top 
```

File: Mathlib/RingTheory/HahnSeries/Basic.lean [hunk 10]
```diff
@@ -289,6 +297,33 @@ theorem coeff_eq_zero_of_lt_orderTop {x : HahnSeries Γ R} {i : Γ} (hi : i < x.
...
+
+@[simp]
+theorem leadingCoeff_zero : leadingCoeff (0 : HahnSeries Γ R) = 0 :=
+  dif_pos rfl
+
+theorem leadingCoeff_of_ne {x : HahnSeries Γ R} (hx : x ≠ 0) :
+    x.leadingCoeff = x.coeff (x.isWF_support.min (support_nonempty_iff.2 hx)) :=
+  dif_neg hx
+
+theorem leadingCoeff_ne_iff {x : HahnSeries Γ R} : x.leadingCoeff ≠ 0 ↔ x ≠ 0 := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/HahnSeries/Basic.lean:313]: I might define `leadingCoeff_eq_iff` first and then prove this theorem as `leadingCoeff_eq_iff.not`

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks!

File: Mathlib/RingTheory/HahnSeries/Addition.lean (hunk 8 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/HahnSeries/Addition.lean]: I have added the variants.  Unfortunately, I was not able to avoid basically duplicating the proofs, since addition is not commutative here.

**Comment by jcommelin** [comment]
If you want, you can add
```lean
/--
`addOppositeEquiv` is an additive monoid isomorphism between
Hahn series over `Γ` with coefficients in the opposite additive monoid `Rᵃᵒᵖ`
and the additive opposite of Hahn series over `Γ` with coefficients `R`.
-/
@[simps (config := .lemmasOnly)]
def addOppositeEquiv : HahnSeries Γ (Rᵃᵒᵖ) ≃+ (HahnSeries Γ R)ᵃᵒᵖ where
  toFun x := .op ⟨fun a ↦ (x.coeff a).unop, by convert x.isPWO_support; ext; simp⟩
  invFun x := ⟨fun a ↦ .op (x.unop.coeff a), by convert x.unop.isPWO_support; ext; simp⟩
  left_inv x := by ext; simp
  right_inv x := by
    apply AddOpposite.unop_injective
    ext
    simp
  map_add' x y := by
    apply AddOpposite.unop_injective
    ext
    simp

@[simp]
lemma addOppositeEquiv_support (x : HahnSeries Γ (Rᵃᵒᵖ)) :
    (addOppositeEquiv x).unop.support = x.support := by
  ext
  simp [addOppositeEquiv_apply]

@[simp]
lemma addOppositeEquiv_symm_support (x : (HahnSeries Γ R)ᵃᵒᵖ) :
    (addOppositeEquiv.symm x).support = x.unop.support := by
  rw [← addOppositeEquiv_support, AddEquiv.apply_symm_apply]

@[simp]
lemma addOppositeEquiv_orderTop (x : HahnSeries Γ (Rᵃᵒᵖ)) :
    (addOppositeEquiv x).unop.orderTop = x.orderTop := by
  simp only [orderTop, AddOpposite.unop_op, mk_eq_zero, AddEquivClass.map_eq_zero_iff,
    addOppositeEquiv_support, ne_eq]
  simp only [addOppositeEquiv_apply, AddOpposite.unop_op, mk_eq_zero, zero_coeff]
  simp_rw [HahnSeries.ext_iff x 0, Function.funext_iff]
  simp only [Pi.zero_apply, AddOpposite.unop_eq_zero_iff, zero_coeff]

@[simp]
lemma addOppositeEquiv_symm_orderTop (x : (HahnSeries Γ R)ᵃᵒᵖ) :
    (addOppositeEquiv.symm x).orderTop = x.unop.orderTop := by
  rw [← addOppositeEquiv_orderTop, AddEquiv.apply_symm_apply]

@[simp]
lemma addOppositeEquiv_leadingCoeff (x : HahnSeries Γ (Rᵃᵒᵖ)) :
    (addOppositeEquiv x).unop.leadingCoeff = x.leadingCoeff.unop := by
  simp only [leadingCoeff, AddOpposite.unop_op, mk_eq_zero, AddEquivClass.map_eq_zero_iff,
    addOppositeEquiv_support, ne_eq]
  simp only [addOppositeEquiv_apply, AddOpposite.unop_op, mk_eq_zero, zero_coeff]
  simp_rw [HahnSeries.ext_iff x 0, Function.funext_iff]
  simp only [Pi.zero_apply, AddOpposite.unop_eq_zero_iff, zero_coeff]
  split <;> rfl

@[simp]
lemma addOppositeEquiv_symm_leadingCoeff (x : (HahnSeries Γ R)ᵃᵒᵖ) :
    (addOppositeEquiv.symm x).leadingCoeff = .op x.unop.leadingCoeff := by
  apply AddOpposite.unop_injective
  rw [← addOppositeEquiv_leadingCoeff, AddEquiv.apply_symm_apply, AddOpposite.unop_op]
```
just after the definition of addition.

Then you can golf
```lean
theorem orderTop_add_eq_right {Γ} [LinearOrder Γ] {x y : HahnSeries Γ R}
    (hxy : y.orderTop < x.orderTop) : (x + y).orderTop = y.orderTop := by
  simpa [← map_add, ← AddOpposite.op_add, hxy] using orderTop_add_eq_left
    (x := addOppositeEquiv.symm (.op y))
    (y := addOppositeEquiv.symm (.op x))

-- [snip]

theorem leadingCoeff_add_eq_right {Γ} [LinearOrder Γ] {x y : HahnSeries Γ R}
    (hxy : y.orderTop < x.orderTop) : (x + y).leadingCoeff = y.leadingCoeff := by
  simpa [← map_add, ← AddOpposite.op_add, hxy] using leadingCoeff_add_eq_left
    (x := addOppositeEquiv.symm (.op y))
    (y := addOppositeEquiv.symm (.op x))
```

**Comment by jcommelin** [comment]
LGTM, I'll leave it up to you whether you implement the suggestion above.

bors d+

**Comment by ScottCarnahan** [comment]
Thank you for the reviews!

bors r+
